US04397856
A mixture of 17.44 g of 2-amino-3-trifluoromethylbenzoic acid prepared by the process of J. Med. Chem., Vol. 16 (2) (1973), p. 101-106 and 34.63 g of dichloroacetyl chloride was progressively heated with stirring and at about 50° C., a hardening of the mass with rapid gas evolution of regular hydrogen chloride occured for one hour. Towards 100° C., one observed a fluidization of the reaction mixture, an intensification of hydrogen chloride evolution and an increase in the temperature of 127° C. The heating was continued until hydrogen chloride evolution ceased to obtain a brown solution which was cooled in an ice bath with stirring. The mixture was vacuum filtered and the product was empasted with ether, then with methanol and was washed with methanol to obtain 23.82 g of 2-dichloromethyl-8-trifluoromethyl-4H-3,1-benzoxazine-4-one melting at 179° C.

reactant | 2-amino-3-trifluoromethylbenzoic acid | 17.44 g | NC1=C(C(=O)O)C=CC=C1C(F)(F)F | C8H6F3NO2
reactant | dichloroacetyl chloride | 34.63 g | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | hydrogen chloride | Cl | ClH
product | 2-dichloromethyl-8-trifluoromethyl-4H-3,1-benzoxazine-4-one | 23.82 g | ClC(C1=NC2=C(C(O1)=O)C=CC=C2C(F)(F)F)Cl | C10H4Cl2F3NO2
